### PR TITLE
bump mathlib

### PR DESCRIPTION
**Pull request by Whysoserioushah**

### CODE REVIEW

File: SpherePacking/ModularForms/E2.lean [hunk 1]
```diff
@@ -48,29 +48,29 @@ theorem extracted_66 (z : ℍ) :
...
-  congr 1
-  rw [show ((d : ℂ) * ↑z + ↑n) ^ 2 = (-↑d * ↑z - ↑n) ^ 2 by ring, ← mul_pow]
-  congr
-  field_simp
-  simp only [UpperHalfPlane.coe]
-  ring
-  · intro i hi
-    exact extracted_77 z i
+  simp [Finset.mul_sum, tsum_sum]
+  sorry
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/E2.lean:52]: So I am confused, why do we need this sorry? I'd rather the number of sorry's not increase

File: SpherePacking/ModularForms/E2.lean [hunk 2]
```diff
@@ -231,14 +232,16 @@ theorem PS3tn22 (z : ℍ) :
...
     ∑' m : ℤ , (1 / ((m : ℂ) * z + n) -  1 / (m * z + n + 1))) =
     (fun N : ℕ+ =>
-    ∑' m : ℤ ,  ∑ n in (Finset.Ico (-(N : ℤ)) (N : ℤ)), (1 / ((m : ℂ) * z + n) -  1 / (m * z + n + 1))) := by
+    ∑' m : ℤ ,  ∑ n ∈ (Finset.Ico (-(N : ℤ)) (N : ℤ)), (1 / ((m : ℂ) * z + n) -  1 / (m * z + n + 1))) := by
     ext n
-    rw [tsum_sum]
-    intro i hi
-    apply summable_pain
+    -- change _ = ∑' (i : _ ⊕ _), _
+    sorry
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/E2.lean:241]: same here

File: SpherePacking/ModularForms/E2.lean (hunk 1 above)
Comment (Whysoserioushah) [reply SpherePacking/ModularForms/E2.lean:52]: I can't figure out the proof now that `tsum_sum` is changed I'll probly spend more time later :)

Comment (b-mehta) [reply SpherePacking/ModularForms/E2.lean:52]: that's renamed to [`tsum_finsetSum`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#tsum_finsetSum)
